US07592358B2
48.7a. 5-(4-chloro-2-methylphenyl)pyrazin-2-ylamine
The product was prepared analogously to Example 48.1a from 2.61 g (15.0 mmol) of 5-bromopyrazin-2-ylamine and 2.56 g (15.0 mmol) of 4-chloro-2-methylphenylboric acid. Yield: 1.70 g (52% of theoretical); C11H10ClN3 (M=219.670); calc.: molpeak (M+H)+:220/222 (Cl); found: molpeak (M+H)+:220/222 (Cl); Rf value: 0.35 (silica gel, PE/EtOAc 7:3).

reactant | 5-bromopyrazin-2-ylamine | 15.0 mmol, 2.61 g | BrC=1N=CC(=NC1)N | C4H4BrN3
reactant | 4-chloro-2-methylphenylboric acid | 15.0 mmol, 2.56 g | ClC1=CC(=C(C=C1)OB(O)O)C | C7H8BClO3
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-(4-chloro-2-methylphenyl)pyrazin-2-ylamine | ClC1=CC(=C(C=C1)C=1N=CC(=NC1)N)C | C11H10ClN3
